Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Aspirin / Levaquin
 
Attending: ___.
 
Chief Complaint:
Right sided weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
NEUROLOGY STROKE ADMISSION NOTE

REASON FOR CONSULTATION: right sided weakness

HPI: 
Ms. ___ is a ___ old right-handed woman with a history 
of migraines, possible epilepsy, depression, asthma and current 
smoking who presents with 2 days of headache and acute onset 
right-sided pain, weakness and numbness.

Around noon yesterday, the patient noticed a very sudden onset 
left-sided pounding headache which was ___ in intensity at 
onset. The pain was mostly over the left side of her head and 
radiated down into the back of her neck.  She did not have 
photophobia or phonophobia but she did have some nausea.  She 
took 2 naproxen without relief of the headache.  She then took 2 
Benadryl and slept from 4 to 10 ___.  On awakening, moving her 
head worse in the headache and so she went back to sleep until 1 
AM.  At that point the headache pain was "12 out of 10"in the 
headache woke her up from sleep at 1 AM.  She could not fall 
back asleep until 3 AM due to the pain.  On awakening for work 
the following morning, she had continued headache during the 
day.  Her boss stopped her and said that she looked bad and told 
her she should go to urgent care.  Around 9 AM, she reported 
that her right hand began shaking, and she had a Novocaine 
sensation from her right shoulder down into her arm.  She says 
that this took about an hour to go from her shoulders to her 
arm.  She left work early and slept for a few hours.  Later on 
in the evening, she called out to her daughter due to 
generalized weakness while she was sitting on the toilet.  Her 
daughter lowered her to the ground and EMS was called.  On EMS 
arrival, there was concern for right-sided weakness.  She was 
taken to ___ where her neuro exam was 
notable for no effort against gravity and decreased sensation of 
the right upper and lower extremity.  She had slowed speech.  
___ stroke scale was 10.  A tele-stroke was called and TPA was 
not administered because the patient's symptoms may have started 
outside of the window earlier in the morning.  The decision was 
made to transfer her for further monitoring given that she was 
still not back at baseline.

Currently, the patient's main complaint is headache.  She 
reports that the weakness and the numbness has largely resolved.

Of note, the patient does endorse a history of frequent 
migraines. However, she is very clear that the migraine headache 
she typically gets are very different from the headache she has 
had the past 2 days.  Her typical migraines are bilateral, 
throbbing headaches with photophobia and nausea.  She usually 
gets a visual aura preceding the headache with floaters in both 
eyes.  She can get up to 10 migraines per month and will usually 
take Advil for treatment.  She has been trialed on a 
beta-blocker for migraine prophylaxis in the past but had to 
stop it due to hypotension.  She was also trialed on Depakote 
but this was stopped because it was not effective.  She is to 
follow with a neurologist but since moving to the ___ area 
she has not reestablish care.  She has never had symptoms of 
numbness, tingling or weakness in the setting of her migraines.

Lastly, patient endorses a history of possible epilepsy.  She 
has difficulty describing her seizure semiology.  She reports 
one type where she gazes off and repeats herself over and over 
again. She also describes one where she falls to the ground and 
shakes all over.  This type of seizure she has not had since 
___.  She has had a normal EEG in the past.  She is 
currently not on any antiepileptic drugs.

On neuro ROS, the pt denies loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denies difficulties producing or 
comprehending speech.  No bowel or bladder incontinence or 
retention. Denies difficulty with gait.

 
Past Medical History:
Migraine with aura
Asthma
Current smoker
Possible epilepsy
Depression
Insomnia
 
Social History:
___
Family History:
No family history of stroke or clot.
 
Physical Exam:
No neurologic deficits on discharge exam.

ADMISSION EXAM: ___
**********
Physical Exam:
Vitals: T: 98.5 P: 66 R: 16  BP: 145/89 SaO2: 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx.  No occipital notch tenderness.  No trapezial spasm.
Neck: Supple, No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic 
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.  She 
twitches her face when activating her smile for me.  This did 
not recur during the rest of the exam.  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
She has a tremor each time she moves to activate her right upper 
extremity which is not rhythmic and resolves with distraction.  
She has give way weakness bilaterally worse on the right.  She 
is able to give full strength for at least 1 second with the 
following results:
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: No deficits to light touch, pinprick, proprioception 
throughout. No extinction to DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap 
bilaterally. No dysmetria on FNF or HKS bilaterally.  No truncal 
ataxia.

-Gait: Good initiation. Narrow-based his feet everted, slowed 
stride appearing as if she is in pain. Able to walk in tandem, 
walk on heels and walk on her toes.
 
Pertinent Results:
___ 09:50PM BLOOD WBC-8.6 RBC-3.98 Hgb-12.0 Hct-36.7 MCV-92 
MCH-30.2 MCHC-32.7 RDW-13.2 RDWSD-45.0 Plt ___
___ 09:50PM BLOOD Neuts-45.2 ___ Monos-4.5* Eos-1.2 
Baso-0.5 Im ___ AbsNeut-3.90 AbsLymp-4.18* AbsMono-0.39 
AbsEos-0.10 AbsBaso-0.04
___ 09:50PM BLOOD Glucose-93 UreaN-7 Creat-0.7 Na-137 
K-6.1* Cl-103 HCO3-24 AnGap-16
___ 09:50PM BLOOD ALT-12 AST-44* AlkPhos-34* TotBili-0.2
___ 09:50PM BLOOD cTropnT-<0.01
___ 09:50PM BLOOD Albumin-3.5 Calcium-8.8 Phos-4.2 Mg-2.0
___ 09:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:10AM BLOOD K-3.6
 
Brief Hospital Course:
Post-hospital follow-up items:
- Migraine treatment, consider ppx medication as an outpatient.

Ms. ___ is a ___ year old woman with a history of migraines, 
possible epilepsy, depression, asthma, and a current smoker who 
presented with acute-onset right-sided pain, weakness, and 
numbness. In the ED, CT brain did not show any infarct or bleed. 
She had a CTA head & neck, which showed overall normal 
vasculature without dissection. She had labs that were overall 
unremarkable, negative troponins, normal CBC and chemistry. She 
was admitted to the stroke neurology service for further 
evaluation and management. 
She had an MRI brain with and without contrast and MRV brain, 
which did not show an infarct, bleed, or mass. There was no 
cerebral venous sinus thrombosis. 

Most likely she had a complicated migraine. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Vitamin D ___ UNIT PO 1X/WEEK (WE) 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Prochlorperazine 10 mg PO Q6H:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth every 
six (6) hours Disp #*10 Tablet Refills:*0 
3.  Sertraline 50 mg PO DAILY  
4.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  
5.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the neurology service for symptoms 
concerning for migraine or TIA/stroke. Your brain imaging was 
normal, and you did not have a stroke.
You most likely had symptoms from your migraines.

To prevent future migraines, we discussed the importance of good 
sleep, regular exercise, not skipping meals and adequate 
hydration in helping to prevent headaches.

We discussed the role of stress in headaches and the potential 
benefit of stress management strategies and possible 
biofeedback. 
We recommend maintaining a headache diary
(including frequency, severity, location, associated and 
alleviating factors, and duration).

1. Encourage good sleep, hydration, regular exercise, not 
skipping meals; complete headache diaries to identify any 
additional triggers

2. Consider meeting with a counselor to work on stress 
reduction/management techniques and biofeedback.

3. Strategies when you first get a headache: Hydration (drink 
plenty of water) and take ibuprofen or naproxen at the start of 
a headache.

If that does not work, try taking prochlorperazine (Compazine) 
for severe headache.

4. Call if worsening headaches, more frequent headaches, 
headaches unresponsive to above plan, or any other concerning 
symptoms

No daily preventative medication at this time.
 
Followup Instructions:
___